US07674815B2
150 mg (0.67 mmol) of 6-chloro-1-ethyl-1H-benzo[d][1,3]oxazine-2,4-dione were suspended in 1.33 ml of 2N KOH and the mixture was heated to 95° C. for 2 h. After cooling to RT the pH was adjusted to 5-6 by careful addition of 1N HCl. The precipitate was then filtered off, washed with water and dried to give 93 mg (71%) of 5-chloro-2-ethylamino-benzoic acid as a yellow solid. 1HNMR (DMSO-d6, 300 MHz): δ 1.13 (t, J=7.2 Hz, 3H), 3.12 (q, J=7.2 Hz, 2H), 6.68 (d, J=9.1 Hz, 1H), 7.31 (dd, J=9.1 and 2.7 Hz, 1H), 7.64 (d, J=2.7 Hz, 1H).

reactant | 6-chloro-1-ethyl-1H-benzo[d][1,3]oxazine-2,4-dione | 0.67 mmol, 150 mg | ClC1=CC2=C(N(C(OC2=O)=O)CC)C=C1 | C10H8ClNO3
reactant | HCl | 1N | Cl | ClH
solvent | KOH | 2N, 1.33 ml | [OH-].[K+]
product | 5-chloro-2-ethylamino-benzoic acid | 93 mg, 71% | ClC=1C=CC(=C(C(=O)O)C1)NCC | C9H10ClNO2
